US05410043
11-(2-Cyanoethyl)-1,4,8,11-tetraazacyclotetradecane
13.68 g (114.8 mmol) of dimethylformamide-dimethylacetal (under nitrogen) is added to 20.0 g (99.83 mmol) of 1,4,8,11-tetraazacyclotetradecane in 200 ml of absolute toluene. It is refluxed slowly and the solvent is distilled off in this way. Then, it is concentrated by evaporation under reduced pressure. The residue is cooled to room temperature. 6.36 g (119.8 mmol) of acrylic acid nitrile is instilled under a nitrogen atmosphere and heated slowly to 75° C. It is stirred for 9 hours at this temperature. It is cooled to room temperature and a mixture of 120 ml of methanol/30 ml of water is added. It is stirred for 10 minutes at room temperature. Then, 11.98 g (299.5 mmol) of sodium hydroxide is added and it is stirred for 24 hours at 40° C. It is evaporated to dryness in a vacuum and the residue is extracted 3 times with hot toluene (80° C.). The organic phase is dried on potassium hydroxide and concentrated by evaporation in a vacuum.

reactant | dimethylformamide-dimethylacetal | 114.8 mmol, 13.68 g | COC(N(C)C)OC | C5H13NO2
reactant | 1,4,8,11-tetraazacyclotetradecane | 99.83 mmol, 20.0 g | N1CCNCCCNCCNCCC1 | C10H24N4
reactant | methanol | 120 ml | CO | CH4O
reactant | sodium hydroxide | 299.5 mmol, 11.98 g | [OH-].[Na+]
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 11-(2-Cyanoethyl)-1,4,8,11-tetraazacyclotetradecane | C(#N)CCN1CCNCCCNCCNCCC1 | C13H27N5
